US07915281B2
N4-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-N2,N2-bis(4-methoxybenzyl)-5,6-dimethylpyridine-2,3,4-triamine (6.00 g, 10.6 mmol), triethyl orthoformate (2.6 mL, 16 mmol), concentrated hydrochloride acid (0.2 mL), and toluene (30 mL) were combined at heated at reflux for 24 hours. An analysis by HPLC indicated the reaction was incomplete. Therefore, pyridine hydrochloride (0.25 g) was added, and the reaction vessel was fitted with a Dean-Stark trap. The reaction was heated at reflux for an additional 1.8 days, and additional triethyl orthoformate (1 mL) was added and heating was resumed. After the reaction was heated for a total of three days, it was allowed to cool to room temperature, and concentrated under reduced pressure. The residue was dissolved in dichloromethane, and the resulting solution was washed sequentially with aqueous potassium carbonate, water, and brine; dried over magnesium sulfate; and filtered. The solution was purified by column chromatography on silica gel (eluting with 5% ethyl acetate in dichloromethane) to provide 2.0 g of 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-N,N-bis(4-methoxybenzyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine as a pale yellow solid.

reactant | N4-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-N2,N2-bis(4-methoxybenzyl)-5,6-dimethylpyridine-2,3,4-triamine | 10.6 mmol, 6.00 g | FC1=CC=C(C=C1)C1=NOC(=C1)CNC1=C(C(=NC(=C1C)C)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)N | C33H34FN5O3
reactant | triethyl orthoformate | 16 mmol, 2.6 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | hydrochloride | 0.2 mL | Cl | ClH
reactant | pyridine hydrochloride | 0.25 g | Cl.N1=CC=CC=C1
reactant | triethyl orthoformate | 1 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-N,N-bis(4-methoxybenzyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 2.0 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C=NC=2C(=NC(=C(C21)C)C)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C34H32FN5O3
